US08293768B2
To a solution of 2-amino-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide (0.50 g, 2.01 mmol) in tetrahydrofuran (30 mL) was added 1,1% carbonyldiimidazole (0.39 g, 2.41 mmol) at ambient temperature. The resulting reaction mixture was stirred at ambient temperature for 6 hours and N-(4-fluorophenethyl)-2,2-dimethoxyethanamine (0.59 g, 2.61 mmol) was added. The reaction mixture was stirred for 17 hour at ambient temperature. The solvent was removed in vacuo, and the residue was purified by column chromatography eluted with dichloromethane/methanol (4/1) to afford 2-(3-(2,2-dimethoxyethyl)-3-(4-fluorophenethyl)ureido)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide as an oil in 19% yield (0.19 g): MS (ES+) m/z 502.4 (M+1).

reactant | 2-amino-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 2.01 mmol, 0.50 g | NC=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1 | C11H12N4OS
reactant | carbonyldiimidazole | 2.41 mmol, 0.39 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-(4-fluorophenethyl)-2,2-dimethoxyethanamine | 2.61 mmol, 0.59 g | FC1=CC=C(CCNCC(OC)OC)C=C1 | C12H18FNO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-(3-(2,2-dimethoxyethyl)-3-(4-fluorophenethyl)ureido)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 19% yield | COC(CN(C(NC=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O)CCC1=CC=C(C=C1)F)OC | C24H28FN5O4S
